US06576656B1
(1) (2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2,4-dichlorophenyl)oxindole
To a solution of 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin (150 mg, 0.341 mmol) in a mixed solvent of diethyl ether (2 mL) and toluene (1 mL) was added dropwise a freshly prepared 0.794 N 2,4-dichlorophenyl magnesium iodide in ether (0.45 mL, 0.387 mmol) at room temperature. The mixture was stirred for 1 h at the same temperature and the reaction was quenched with aqueous NaHCO3. The mixture was extracted with ethyl acetate and the extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography with 80:1 to 50:1 chloroform/methanol to give the title compound (111 mg, 55%).

reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin | 0.341 mmol, 150 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=C(C=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
reactant | diethyl ether | 2 mL | C(C)OCC | C4H10O
reactant | 2,4-dichlorophenyl magnesium iodide | 0.794 N | ClC1=C(C=CC(=C1)Cl)[Mg]I
reactant | ether | 0.387 mmol, 0.45 mL | CCOCC | C4H10O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2,4-dichlorophenyl)oxindole | 111 mg, 55% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)(C1=C(C=C(C=C1)Cl)Cl)O)=O)CC | C21H20Cl2F3IN2O2
